US05668145
B. Racemic 2-Benzyl-3-hydroxy-3,4-dihydro-2H-isoquinoline-1-one
To a well-stirred ice-bath-chilled solution of 2-benzyl-4H-isoquinoline-1,3-dione (5.0 g, 20 mmol) in methanol (40 ml), sodium borohydride (3.0 g, 80 mmol) was added portionwise over 20 minutes. The reaction mixture was stirred at ambient temperature for 48 hours. TLC inspection of a reaction aliquot confirmed substantial formation of product, with some starting material remaining. TLC Rf of the title compound (silica gel plates; u.v. detection; elution with ethyl acetate/hexane=3.7 in volume): 0.24. The ice-bath-chilled reaction mixture was cautiously quenched with water (3 ml). Anhydrous sodium sulfate was added to dry the mixture, which was then filtered. The filtrate was concentrated in vacuo to a dark green oil (3.5 g). Flash chromatography (silica gel, 40 micron mesh; elution with ethyl acetate hexane=3.7 volume) afforded the title compound as a colorless amorphous solid (1.35 g). The labile material was used immediately in the next step.

reactant | 2-benzyl-4H-isoquinoline-1,3-dione | 20 mmol, 5.0 g | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1=O)=O | C16H13NO2
reactant | sodium borohydride | 80 mmol, 3.0 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | Racemic 2-Benzyl-3-hydroxy-3,4-dihydro-2H-isoquinoline-1-one | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1O)=O | C16H15NO2
